US06610711B2
N-Hexyl-4-(3-hydroxyphenyl)-4-methylpiperidine
To 4-(3-hydroxyphenyl)-4-methylpiperidine (776 mg, 4.06 mmol) in N,N-dimethylformamide (5 ml) was added sodium hydrogen carbonate (341 mg, 4.06 mmol) and 1-bromohexane (0.57 ml, 4.06 mmol). The reaction mixture was heated at 100° C. for 4 h and then allowed to cool to room temperature. The solution was poured onto water (20 ml) and extracted with diethyl ether (3×10 ml). The combined extracts were washed with water (20 ml), dried (MgSO4) and concentrated in vacuo to give the title compound as a clear oil (1.0 g, 90%).

reactant | 4-(3-hydroxyphenyl)-4-methylpiperidine | 4.06 mmol, 776 mg | OC=1C=C(C=CC1)C1(CCNCC1)C | C12H17NO
reactant | sodium hydrogen carbonate | 4.06 mmol, 341 mg | C(O)([O-])=O.[Na+]
reactant | 1-bromohexane | 4.06 mmol, 0.57 ml | BrCCCCCC | C6H13Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-Hexyl-4-(3-hydroxyphenyl)-4-methylpiperidine | 1.0 g, 90% | C(CCCCC)N1CCC(CC1)(C)C1=CC(=CC=C1)O | C18H29NO
